US07795283B2
vi) trans-Ethyl 2-[4-(4-{[methoxy(oxo)acetyl]amino}phenyl)cyclohexyl]propanoate
A solution of methyl chlorooxoacetate (670 mg, 5.45 mmol) in DCM (3 mL) was added in one portion to a solution of trans-ethyl 2-[4-(4-aminophenyl)cyclohexyl]propanoate (1.0 g, 3.63 mmol) and pyridine (0.59 mL, 7.26 mmol) in DCM (22 mL) at 5° C. and the mixture was warmed to room temperature and stirred for 2 h. The reaction mixture was concentrated in vacuo and EtOAc (30 mL) was added. The layers were separated and the organic layer was washed with water (25 mL) and brine (25 mL). The organic layer was dried and concentrated in vacuo to give the title compound (1.3 g, 99%) as a solid; 1H NMR δ (CDCl3) 1.0-1.1.25 (2H, m), 1.1 (3H, d), 1.2 (3H, t), 1.3-1.47 (2H, m), 1.48-1.55 (2H, m), 1.68-1.79 (1H, m), 1.8-1.95 (2H, m), 2.18-2.28 (1H, m), 2.35-2.5 (1H, m), 3.9 (3H, t), 4.08 (2H, q), 7.12 (2H, d), 7.47 (2H, d); MS m/e (M−H)− 360.

reactant | methyl chlorooxoacetate | 5.45 mmol, 670 mg | ClC(C(=O)OC)=O | C3H3ClO3
reactant | trans-ethyl 2-[4-(4-aminophenyl)cyclohexyl]propanoate | 3.63 mmol, 1.0 g | NC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)C(C(=O)OCC)C | C17H25NO2
reactant | pyridine | 7.26 mmol, 0.59 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 22 mL | C(Cl)Cl | CH2Cl2
product | trans-Ethyl 2-[4-(4-{[methoxy(oxo)acetyl]amino}phenyl)cyclohexyl]propanoate | 1.3 g, 99% | COC(C(=O)NC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)C(C(=O)OCC)C)=O | C20H27NO5
